Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Morphine / 
Lisinopril / mango / papaya
 
Attending: ___.
 
Chief Complaint:
Abdominal Distension, Shortness of breath
 
Major Surgical or Invasive Procedure:
Diagnostic and therapeutic paracentesis (___)

 
History of Present Illness:
___ year old female with HCV/EtOH
cirrhosis (c/b ascites, varices, and hepatic encephalopathy),
current polysubstance abuse, COPD, HTN, and HLD who presents 
with
SOB and abdominal distention for ___ weeks.

Patient reports that for the past ___ weeks she has noted
increasing abdominal distention, abdominal pain, and shortness 
of
breath accompanied by mild chest pain that she attributes to
pressure from the abdomen. She states that dyspnea is worse when
lying flat and has a sensation of her abdomen pressing on her
lungs. Denies any chest pain or palpitations.

Of note, patient was recently admitted to ___ from ___
for abdominal pain thought to be secondary to ascites with a
diagnostic paracentesis not concerning for SBP. A large volume
therapeutic paracentesis performed during that admission 
resulted
in partial relief of her pain.

A paracentesis performed in the ED was negative for SBP.
Hepatology was consulted who recommended getting a UA and lipase
and admitting the patient to the ___ service for 
further
evaluation.

In the ED, initial vitals:  97.5  65  166/78  20  99% RA 

- Exam notable for:  Abdomen distended with tenderness to
palpation diffusely. No asterixis or concern for hepatic
encephalopathy.

- Labs notable for:  Paracentesis negative for SBP, Hgb 9.9

- Imaging notable for:  Normal CXR

- Hepatology was consulted who recommended admission to ET for
further evaluation.

- Pt given: 4mg IV morphine x2

- Vitals prior to transfer: 98.1 76 172/80 16 98% RA
 
On the floor patient reports history as above. Endorses 
abdominal
pain, and feeling of skin stretching from distention. Also
reports chest pain, which may be from her abdominal pain as well
as dyspnea due to distention. Reports compliance with 
medications
including home diuretics. Denies recent fevers, chills, rash,
sick contacts. Cough stable. Reports passing gas and having
multiple very small BM a day. 
 
REVIEW OF SYSTEMS:  
Complete ROS obtained and is otherwise negative. 

 
Past Medical History:
PAST MEDICAL AND SURGICAL HISTORY:  
Hepatitis C cirrhosis- genotype 1a decompensated with h/o
ascites; liver biopsy in ___ showed stage ___ fibrosis
Hypertension
Hyperlipidemia
COPD
Alcohol abuse
Depression
Cocaine abuse
Tobacco abuse
Atypical chest pain
Breast pain
Abdominal pain
Cervical spondylosis
L subclavian stenosis
Peripheral vascular disease
GERD s/p lap fundoplication and hiatal hernia repair ___
s/p cholecystectomy
s/p R inguinal hernia repair

 
Social History:
___
Family History:
Mom had DM, CAD (COD), and was in a wheelchair for neuropathy.
Father had alcoholism and rectal CA (COD).
Sister has mental illness, also hx of falls. 
Siblings: 1 brother neonatal death, 1 brother death at 3 months, 
1 brother sudden death in ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS: 97.5 163/79 74 22 95% RA 
Wt: 146lbs
GENERAL: Laying comfortably in no acute distress 
HEENT: EOMI. PERRL. anicteric sclera
HEART: RRR, S1. S2. No mrg
LUNGS: shallow breathing. Crackles at b/l bases
ABDOMEN: tense ascites. +periumbilical hernia (soft,). Diffusely
tender in all quadrants with mild palpation. No rebound
tenderness, rigidity. +BS
EXTREMITIES: NO ___ edema
NEURO: AOx3. No asterixes. ___ backwards

DISCHARGE PHYSICAL EXAM:
VITALS: 98.3 121 / 61 80 18 94% on RA 
Weight: 127lbs
GENERAL: Thin, unwell Caucasian woman, sitting up in bed, 
tearful
when talking about how she doesn't like to be alone. 
HEENT: Sclerae anicteric
HEART: RRR, normal S1-S2, no M/R/G.
LUNGS: Clear to auscultation bilaterally. breathing comfortably
without the use of accessory muscles. 
ABDOMEN: Distended, but compressible. Diffuse tenderness to
palpation.  Positive fluid wave.  Again noted is the soft
periumbilical hernia.  No rebound tenderness, or rigidity. +BS
EXTREMITIES: No lower extremity edema
NEURO: AOx3. No asterixis. 

 
Pertinent Results:
ADMISSION LABS: ___ 12:30PM
---------------
WBC-4.9 RBC-3.70* Hgb-9.9* Hct-32.0* MCV-87 MCH-26.8 MCHC-30.9* 
RDW-18.6* RDWSD-59.1* Plt ___ Neuts-74.7* Lymphs-14.8* 
Monos-9.1 Eos-0.8* Baso-0.2 Im ___ AbsNeut-3.68 
AbsLymp-0.73* AbsMono-0.45 AbsEos-0.04 AbsBaso-0.01
___ PTT-35.1 ___
Glucose-117* UreaN-8 Creat-0.7 Na-141 K-3.8 Cl-105 HCO3-24 
AnGap-12
ALT-10 AST-28 AlkPhos-145* TotBili-1.0
Lipase-29
cTropnT-<0.01
Albumin-3.0* Calcium-8.5 Phos-2.8 Mg-1.9
Lactate-1.8

Notable Labs:
--------------
___ 06:30AM BLOOD CK-MB-1 cTropnT-<0.01

Peritoneal Fluid:
-----------------
___ 01:53PM ASCITES TNC-235* RBC-629* Polys-3* Lymphs-35* 
___ Macroph-62*
___ 12:44PM ASCITES TNC-175* RBC-214* Polys-5* Lymphs-18* 
Monos-0 NRBC-1* Mesothe-10* Macroph-66* Other-0 TotPro-1.5 
Glucose-137 LD(LDH)-41

DISCHARGE LABS: ___ 05:56AM
---------------
WBC-5.4 RBC-2.97* Hgb-7.9* Hct-26.3* MCV-89 MCH-26.6 MCHC-30.0* 
RDW-18.2* RDWSD-59.3* Plt Ct-72*
___ PTT-38.1* ___
Glucose-142* UreaN-6 Creat-0.7 Na-138 K-4.0 Cl-103 HCO3-21* 
AnGap-14
ALT-9 AST-27 AlkPhos-105 TotBili-1.3
Albumin-3.3* Calcium-8.2* Phos-2.7 Mg-1.9

MICRO:
-------
___ 12:44 pm PERITONEAL FLUID      PERITONEAL FLUID. 

GRAM STAIN (Final ___: 1+    (<1 per 1000X FIELD):   
POLYMORPHONUCLEAR LEUKOCYTES. NO MICROORGANISMS SEEN. 
This is a concentrated smear made by cytospin method, please 
refer to
hematology for a quantitative white blood cell count.. 
FLUID CULTURE (Preliminary): NO GROWTH. 
ANAEROBIC CULTURE (Preliminary): NO GROWTH. 

IMAGING:
--------
Chest XRay: ___
IMPRESSION: No acute cardiopulmonary process. 

Abdominal Ultrasound ___
IMPRESSION: Cirrhotic liver with large volume ascites and 
splenomegaly measuring 16.1 cm. 

Abdominal XRay ___
IMPRESSION:  
1.No free intraperitoneal air. 
2.No bowel obstruction.  Mild gaseous distention of the 
ascending and 
transverse colon. 

 
Brief Hospital Course:
Summary:
--------
___ with PMHx EtOH/HCV cirrhosis (previously complicated by 
ascites, varices, and hepatic encephalopathy), polysubstance 
abuse, and HTN who presented with abdominal distention and SOB 
for ___ weeks. Her shortness of breath was felt to be due to 
tense ascites, as she had not been drained in over a month and 
had "pushed back" some of her prior paracentesis appointments. 
Pt underwent a large volume paracentesis on ___ for 8.2 
liters, which she tolerated well. Tap negative for SBP. Pt with 
improved abdominal pain and breathing after her paracentesis; as 
such, she was discharged with a plan for more regular outpatient 
paracenteses.

ACTIVE ISSUES:
---------------
# TENSE ASCITES causing
# SHORTNESS OF BREATH and
# ABDOMINAL PAIN: 
The patient presented with clear chest xray on ___. Likely 
etiology of symptoms was due to not having undergone 
paracentesis since ___. The patient was supposed to have 
regularly scheduled paracenteses after her previous hospital 
stay, but did not make her appointments. She underwent large 
volume paracentesis with 8.2L removed on ___, with 
significant improvement in her abdominal pain and shortness of 
breath. She does have some element of chronic abdominal pain, 
which on her last hospital stay was thought multifactorial in 
the setting of ascites + constipation; she was given oxycodone 
in house, and one dose of IV morphine as well as an uptitrated 
bowel regimen, for pain control. She was sent home with her home 
tramadol. When she was discharged, she was walking without 
assistance. 

# POLYSUBSTANCE/ETOH ABUSE:
Pt still drinking alcohol, and reported using cocaine 1 week 
prior to arrival. Would likely benefit from continued social 
work guidance as an outpatient for substance abstinence.

CHRONIC/STABLE ISSUES:
# ETOH/HCV CIRRHOSIS:
Genotype 1a HCV, with Child's B cirrhosis. Her last EGD on 
___ showed 3 small varices, and she had previously been on 
nadolol (held since ___ given ___ during hospitalization). 
Her HCV viral load was 6 in ___.
- Will need Harvoni in the future, when more medically stable, 
for HCV radiation
- VOLUME: Restarted Pt's home furosemide 20mg PO daily.
- INFECTION: No evidence or history of SBP.
- BLEEDING: Hx of small varices. Nadolol 10mg daily was 
restarted. She noted that she was not cutting her 20mg tablets, 
and she was given a pill cutter to use at home. ___ uptitrate as 
outpatient.
- ENCEPHALOPATHY: Home lactulose/rifaximin.
- SCREENING: Last EGD in ___. Most recent RUQUS on ___ 
without obvious liver lesions.

# COPD: 
Home albuterol, tiotropium, advair.

# PRIMARY PREVENTION: 
Home aspirin

# CHRONIC ABDOMINAL PAIN:
Given morphine and oxycodone in house. Discharged on home 
tramadol.

# HTN: 
Restarting home nadolol at discharge at half dose (10mg daily). 
Provided the patient with a pill cutter

# SEASONAL ALLERGIES: 
Home loratadine and Flonase.

# HLD: 
Home simvastatin.

# GERD: 
Home pantoprazole, Maalox.

TRANSITIONAL ISSUES:
 #Code status: Full
 #Health care proxy/emergency contact: 
 ___ 
 Relationship: fiance 
 Phone number: ___ 

[] MEDICATION CHANGES:
- Added: Nadolol 10mg daily. ___ increase if blood pressure/HR 
allows, or discontinue if not well tolerated.

[] FOLLOW-UP LABS:
- Please obtain CBC, chem10, LFT's, ___, PTT, INR on ___. 
Please fax results to Pt's PCP ___, fax ___ 
and the ___ (___).

[] SERIAL PARACENTESES:
- Please schedule patient for q1week to q2week paracenteses, so 
that she does not get behind and have reaccumulation of ascites. 
Should have albumin given per liter removed.

[] ABDOMINAL PAIN:
- Consider chronic pain outpatient referral, given that she has 
h/o substance abuse and significant pain medication requirements 
while in-house.

[] HCV TREATMENT:
- Pt should receive Harvoni therapy for her genotype 1a HCV when 
medically stable.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Ferrous Sulfate 325 mg PO DAILY 
4. Fluticasone Propionate NASAL 1 SPRY NU BID 
5. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
6. FoLIC Acid 1 mg PO DAILY 
7. Lactulose 30 mL PO Q8H:PRN constipation 
8. Multivitamins W/minerals 1 TAB PO DAILY 
9. Pantoprazole 40 mg PO Q12H 
10. Tiotropium Bromide 1 CAP IH DAILY 
11. Rifaximin 550 mg PO BID 
12. Simvastatin 20 mg PO QPM 
13. Thiamine 100 mg PO DAILY 
14. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
15. Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral BID 
16. Furosemide 20 mg PO DAILY 
17. HydrOXYzine 25 mg PO BID:PRN itch 
18. Loratadine 10 mg PO DAILY:PRN allergies 
19. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
20. Acetaminophen 1000 mg PO BID 
21. Maalox/Diphenhydramine/Lidocaine 15 mL PO QID 
22. Simethicone 40-80 mg PO QID 
23. Polyethylene Glycol 17 g PO DAILY 

 
Discharge Medications:
1.  Nadolol 10 mg PO DAILY  
2.  Loratadine 10 mg PO DAILY allergies  
3.  Acetaminophen 1000 mg PO BID  
4.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing  
5.  Aspirin 81 mg PO DAILY  
6.  Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral BID  
7.  Docusate Sodium 100 mg PO BID  
8.  Ferrous Sulfate 325 mg PO DAILY  
9.  Fluticasone Propionate NASAL 1 SPRY NU BID  
10.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
11.  FoLIC Acid 1 mg PO DAILY  
12.  Furosemide 20 mg PO DAILY  
13.  HydrOXYzine 25 mg PO BID:PRN itch  
14.  Lactulose 30 mL PO Q8H:PRN constipation  
15.  Maalox/Diphenhydramine/Lidocaine 15 mL PO QID  
16.  Multivitamins W/minerals 1 TAB PO DAILY  
17.  Pantoprazole 40 mg PO Q12H  
18.  Polyethylene Glycol 17 g PO DAILY  
19.  Rifaximin 550 mg PO BID  
20.  Simethicone 40-80 mg PO QID  
21.  Simvastatin 20 mg PO QPM  
22.  Thiamine 100 mg PO DAILY  
23.  Tiotropium Bromide 1 CAP IH DAILY  
24.  TraMADOL (Ultram) 50 mg PO Q6H:PRN pain  
25.Outpatient Lab Work
___: CBC, chem10, LFT's, ___, PTT, INR Fax results to 
___, fax ___ and ___ 
(___). ICD 10: ___ Alcohol Cirrhosis with Ascites

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Tense ascites
Abdominal pain

SECONDARY DIAGNOSES:
Substance use disorder
COPD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at the ___ 
___.

WHY WAS I SEEN IN THE HOSPITAL?
- You were having worsening belly pain and swelling.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You had a large amount of fluid removed from your belly.  It 
did not have any signs of infection.
- You got medicines for your belly pain.

WHAT SHOULD I DO WHEN I AM AT HOME?
- Please adhere to a low salt diet.
- Follow up with the ___ at the number listed 
below, to make an appointment with a regular liver doctor.
- Please discuss having regular scheduled drainage appointments 
to be done as an outpatient.
- Please do NOT drink alcohol or use other substances.

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___